2125-02-21 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2-20**] Events:
   - extra dose of lasix 40 mg IV at 7 pm
   - O2 sats in low 90s, pt comfortable and sleeping
   - renal recs:  d/c rapamune, start tacro 0.5 [**Hospital1 **], check levels day
   after
   - HD planned for today
 BLOOD CULTURED - At [**2125-2-20**] 02:45 PM
   BC X2 drawn
 URINE CULTURE - At [**2125-2-20**] 02:45 PM
 EKG - At [**2125-2-20**] 05:46 PM
   Allergies:
   Sporanox (Oral) (Itraconazole)
   Unknown;
   Ace Inhibitors
   Angioedema;
   Penicillins
   angioedema;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2125-2-20**] 11:59 PM
   Heparin Sodium (Prophylaxis) - [**2125-2-21**] 06:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-21**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 83 (72 - 83) bpm
   BP: 160/55(81) {132/41(62) - 165/74(81)} mmHg
   RR: 15 (10 - 18) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    420 mL
                                                                    450 mL
   PO:
                                                                    420 mL
                                                                    450 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  3,225 mL
                                                                  1,530 mL
   Urine:
                                                                  2,575 mL
                                                                  1,530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,805 mL
                                                                 -1,080 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   General: Distracted, oriented but slow to respond, NAD
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: JVP elevated at 5cm while sitting at 90
   Lungs: crackles/insp rales track up 1/2 of posterior lung [**Last Name (un) 4587**],
   moving air well, no wheezes.
   CV: RRR, soft Gr 3 SEM over RUSB, 2nd murmur over LSB, more
   holosystolic gr [**2-13**]. No gallop
   Abdomen:  soft, mildly distended, bowel sounds present, no rebound
   tenderness or guarding, mild tenderness over bruising from sc hep
   shots, but no tenderness over transplant site
   Ext: Warm, +1 pitting edema bilaterally
   Labs / Radiology
   168 K/uL
   9.9 g/dL
   135 mg/dL
   3.3 mg/dL
   28 mEq/L
   3.7 mEq/L
   106 mg/dL
   107 mEq/L
   147 mEq/L
   30.8 %
   11.7 K/uL
        [image002.jpg]
                             [**2125-2-20**]  11:24 AM
                             [**2125-2-20**]  05:48 PM
                             [**2125-2-21**]  05:47 AM
   WBC
   14.7
   11.7
   Hct
   33.2
   30.8
   Plt
   187
   168
   Cr
   3.8
   3.6
   3.3
   TropT
   0.05
   0.05
   0.06
   Glucose
   132
   139
   135
   Other labs: PT / PTT / INR:14.1/31.2/1.2, CK / CKMB /
   Troponin-T:39//0.06, Ca++:9.5 mg/dL, Mg++:2.5 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   72 y/o M with CAD s/p CABG with EF of 35-409%, CRI [**2-12**] FSGS s/p renal
   transplant in 05 who was transfered for hypoxia and mental status
   changes likely due to massive volume overload and uremia.
   .
   # Hypoxia: Most likely due to volume overload, COPD exacerbation, but
   no sign of  PNA.
   - responded well to lasix IV 40 mg x2, continue diuresis
   - renal following, possible dialysis today for more fluid removal,
   although Cr improved and resp status improved
   - for COPD exacerbation, now s/p levoflox course, would lengthen
   steroid course as is still wheezy
   - cont nebs
   .
   # MS changes: Most likely due to uremia
   - recommend HD for BUN >100
   - will attempt continued diuresis though risk of worsening MS
   - has improved slightly over the course of the evening
   .
   # CAD/ST depressions: Pt with h/o CAD s/p CABG. However, given absence
   of CP and normal cardiac enzymes, suspect that EKG changes likely LVH
   with strain in setting of heart failure.
   - cont afterload reduction for greater forward flow (which is also
   improving creatinine) with imdur and hydralazine
   - CEs negative, ST depressions chronic
   - no need for heparin gtt
   - continue ASA, BB, statin
   .
   # CHF: Pt with reported EF of 35-40% and known CAD s/p CABG.
   - f/u echo being done today
   - diuresis as above
   - afterload reduction with hydralazine 75mg TID & imdur 30mg
   - cont lasix for diuresis
   .
   # ARF s/p renal transplant
   - stopped rapamune and started tacrolimus; will check level tomorrow
   - recommend HD
   .
   # Hyperkalemia:
   - resolved
   - monitor on telemetry, serial EKGs
   - f/u renal recs
   .
   # FEN: advanced diet as mental status has improved
   - treat hyperkalemia as above
   - no IVF given volume overload
   .
   # Prophylaxis: heparin sc tid
   .
   # Access: PIV x 1
   .
   # Code: FULL
   .
   # Communication: pt & wife
   .
   # Disposition: pending above, possible call out to floor today
   .
   **********************************
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-2-20**] 10:26 AM
   22 Gauge - [**2125-2-20**] 10:27 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2125-02-22 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2-21**] Events:
   - increased prednisone to 40mg for better COPD coverage
   - renal did UF yesterday
   - ECHO:
   There is mild symmetric left ventricular hypertrophy. The left
   ventricular cavity size is top normal/borderline dilated. There is
   moderate regional left ventricular systolic dysfunction with moderate
   hypokinesis of the septum and mild hypokinesis of the basal to mid
   inferior segments. Tissue Doppler imaging suggests an increased left
   ventricular filling pressure (PCWP>18mmHg). Right ventricular chamber
   size and free wall motion are normal. The aortic valve leaflets (3) are
   mildly thickened but aortic stenosis is not present. No aortic
   regurgitation is seen. The mitral valve leaflets are mildly thickened.
   Mild (1+) mitral regurgitation is seen. [Due to acoustic shadowing, the
   severity of mitral regurgitation may be significantly UNDERestimated.]
   The tricuspid valve leaflets are mildly thickened. There is mild
   pulmonary artery systolic hypertension. There is no pericardial
   effusion.
   IMPRESSION: Borderline dilatation of the left ventricle with regional
   LV systolic dysfunction. Diastolic dysfunction. Mild mitral
   regurgitation. Mild pulmonary artery systolic hypertension.
   Compared with the prior study (images reviewed) of [**2122-9-10**], wall
   motion abnormalities are probably new (prior echo images were
   suboptimal). Diastolic dysfunction can now be clearly determined. The
   degree of mitral regurgitation has increased slightly.
   - R sided CP in PM -> EKG stable, CEs flat (likely neuropathic, pt had
   been off of fentanyl patch)
   - increasing O2 requirements overnight (high flow 50%, 5L NC),
   increased crackles R side -> lasix 40mg IV
 TRANSTHORACIC ECHO - At [**2125-2-21**] 11:29 AM
 EKG - At [**2125-2-21**] 06:13 PM
   Allergies:
   Sporanox (Oral) (Itraconazole)
   Unknown;
   Ace Inhibitors
   Angioedema;
   Penicillins
   angioedema;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-2-21**] 02:07 PM
   Morphine Sulfate - [**2125-2-21**] 06:20 PM
   Metoprolol - [**2125-2-21**] 06:26 PM
   Furosemide (Lasix) - [**2125-2-21**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-22**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 91 (69 - 96) bpm
   BP: 176/64(92) {112/41(69) - 176/106(110)} mmHg
   RR: 15 (10 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,210 mL
                                                                    120 mL
   PO:
                                                                  1,210 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  4,200 mL
                                                                  1,640 mL
   Urine:
                                                                  3,500 mL
                                                                  1,640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,990 mL
                                                                 -1,520 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   General: Distracted, oriented but slow to respond, NAD
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: JVP elevated at 5cm while sitting at 90
   Lungs: crackles/insp rales track up 1/2 of posterior lung [**Last Name (un) 4587**],
   moving air well, no wheezes.
   CV: RRR, soft Gr 3 SEM over RUSB, 2nd murmur over LSB, more
   holosystolic gr [**2-13**]. No gallop
   Abdomen:  soft, mildly distended, bowel sounds present, no rebound
   tenderness or guarding, mild tenderness over bruising from sc hep
   shots, but no tenderness over transplant site
   Ext: Warm, +1 pitting edema bilaterally
   Labs / Radiology
   155 K/uL
   9.6 g/dL
   141 mg/dL
   2.5 mg/dL
   29 mEq/L
   4.2 mEq/L
   82 mg/dL
   105 mEq/L
   145 mEq/L
   30.3 %
   10.3 K/uL
        [image002.jpg]
                             [**2125-2-20**]  11:24 AM
                             [**2125-2-20**]  05:48 PM
                             [**2125-2-21**]  05:47 AM
                             [**2125-2-21**]  06:05 PM
                             [**2125-2-22**]  02:46 AM
   WBC
   14.7
   11.7
   10.3
   Hct
   33.2
   30.8
   30.3
   Plt
   187
   168
   155
   Cr
   3.8
   3.6
   3.3
   2.5
   TropT
   0.05
   0.05
   0.06
   0.05
   0.07
   Glucose
   132
   139
   135
   141
   Other labs: PT / PTT / INR:13.6/30.6/1.2, CK / CKMB /
   Troponin-T:35//0.07, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   72 y/o M with CAD s/p CABG with EF of 35-409%, CRI [**2-12**] FSGS s/p renal
   transplant in 05 who was transfered for hypoxia and mental status
   changes likely due to massive volume overload and uremia.
   .
   # Hypoxia: Most likely due to volume overload, COPD exacerbation, but
   no sign of  PNA, had increased oxygen requirement overnight requiring
   bipap.  Responded to lasix and now back on 3 L.
   - responded well to lasix IV 40 mg x2, continue diuresis
   - renal following, had 700 cc  removed from UF yesterday; short HD
   session planned for today.
   - for COPD exacerbation, now s/p levoflox course, 40 mg PO prednisone
   course for one week and then start wean
   - cont nebs
   .
   # MS changes: Most likely due to uremia
   - recommend HD for BUN >100, renal team following
   - has improved, back to baseline, does seem depressed now
   .
   # CAD/ST depressions: Pt with h/o CAD s/p CABG. CP overnight, likely
   due to neuropathic pain.  EKG unchanged, CEs recycled and negative
   - cont afterload reduction for greater forward flow (which is also
   improving creatinine) with imdur and hydralazine
   - CEs negative, ST depressions chronic
   - no need for heparin gtt
   - continue ASA, BB, statin
   - restarted fentanyl patch last night again
   .
   # CHF: Pt with reported EF of 35-40% and known CAD s/p CABG.
   - echo done, see 24 hr events for report
   - diuresis as above
   - afterload reduction with hydralazine 75mg TID & imdur 30mg
   - cont lasix for diuresis
   .
   # ARF s/p renal transplant
   - stopped rapamune and started tacrolimus; level subtherapeutic, will
   touch base with renal about dosing
   - recommend HD, plan for short session today
   .
   # Hyperkalemia:
   - resolved
   - monitor on telemetry, serial EKGs
   - f/u renal recs
   .
   # FEN: advanced diet as mental status has improved
   - no IVF given volume overload
   .
   # Prophylaxis: heparin sc tid
   .
   # Access: PIV x 1
   .
   # Code: FULL
   .
   # Communication: pt & wife
   .
   # Disposition: pending above, possible call out to floor today
   .
   **********************************
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2125-2-20**] 10:27 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: